US07060721B1
4-Bromo-2-ethylimidazole (24.4 g) was dissolved in ethanol (244 ml), and 1N aqueous sodium hydroxide solution (105 ml) and 37% formalin (15.6 ml) were added. The mixture was stirred at room temperature for 15 hr. The reaction mixture was neutralized under ice-cooling and concentrated to dryness under reduced pressure. The residue was extracted with chloroform-methanol (4/1) and insoluble matter was filtered off. The residue was concentrated to dryness under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=49:1–19:1) to give 4-bromo-2-ethyl-5-(hydroxymethyl)imidazole (18.9 g) as a yellow powder.

reactant | 4-Bromo-2-ethylimidazole | 24.4 g | BrC=1N=C(NC1)CC | C5H7BrN2
reactant | sodium hydroxide | 1N, 105 ml | [OH-].[Na+]
reactant | formalin | 15.6 ml | C=O | CH2O
solvent | ethanol | 244 ml | C(C)O | C2H6O
product | 4-bromo-2-ethyl-5-(hydroxymethyl)imidazole | 18.9 g | BrC=1N=C(NC1CO)CC | C6H9BrN2O
